US04470990
5,6,7,8-Tetrahydro-7-(dipropylamino)-naphthalenol hydrobromide [5.90 g, 18.0 mmol, described by L.-E. Arvidsson et al., J. Med. Chem. 24, 921 (1981)] was added portionwise as a solid to an ice-cold solution of boron trichloride in dichloromethane (43 mL, 1M solution). To the clear solution was added successively chloroacetonitrile (2.74 mL, 43 mmol) and aluminum trichloride (2.88 g, 22 mmol). A precipitate formed after 0.5 hour. The suspension was left stirring at room temperature overnight. Then, ice-water and 10% hydrochloric acid (20 mL) were added and the mixture was stirred vigorously for 1 hour at room temperature. It was made basic with dilute ammonium hydroxide and shaken with chloroform. The emulsion was filtered through diatomaceous earth, and washed with chloroform. The organic layer was separated, dried and evaporated to dryness. The residue was taken up in chloroform (150 mL) and triethylamine (10 mL) was added. The solution was refluxed on a steam bath for 2 hours, and evaporated to dryness. The residue was partitioned between diethyl ether and dilute ammonium hydroxide. The ether phase was washed with water, dried and evaporated to give N,N-dipropyl-2,3,6,7,8,9-hexahydro-3-oxonaphtho[1,2-b]furan-8-amine as a crude pink solid (5.5 g), and was used as such for the next step. An analytical sample was passed through a column of silica gel and eluted with chloroform and a mixture of acetone and chloroform (1:9) to give an oil which solidified on standing: mp 56°-64° C. and NMR (CDCl3)δ 0.87 (t, 6H), 1.47 (m, 6H), 2.48 (t, 4H), 2.70 (m, 1H), 2.87 (m, 4H), 4.59 (s, 2H), 6.27 (d, 1H) and 7.37 (d, 1H).

reactant | 5,6,7,8-Tetrahydro-7-(dipropylamino)-naphthalenol hydrobromide | 18.0 mmol, 5.90 g | Br.C(CC)N(C1CCC=2C=CC=C(C2C1)O)CCC
reactant | boron trichloride | B(Cl)(Cl)Cl | BCl3
reactant | chloroacetonitrile | 43 mmol, 2.74 mL | ClCC#N | C2H2ClN
reactant | aluminum trichloride | 22 mmol, 2.88 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | hydrochloric acid | 20 mL | Cl | ClH
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | dichloromethane | 1M, 43 mL | ClCCl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N,N-dipropyl-2,3,6,7,8,9-hexahydro-3-oxonaphtho[1,2-b]furan-8-amine | C(CC)N(C1CCC=2C=CC3=C(OCC3=O)C2C1)CCC | C18H25NO2
